US04518596
8-(α-Methyl-4-methylthiobenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 1 from 2-chloro-8-(α-methyl-4-methylthiobenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine (m.p.: 146°-149° C.) and piperazine.

reactant | 2-chloro-8-(α-methyl-4-methylthiobenzyl-thio)-4-morpholino-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC(C2=CC=C(C=C2)SC)C)N2CCOCC2 | C19H20ClN5OS2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-(α-Methyl-4-methylthiobenzyl-thio)-4-morpholino-2-piperazino-pyrimido-[5,4-d]-pyrimidine | CC(C1=CC=C(C=C1)SC)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)N2CCNCC2 | C23H29N7OS2
